US08236792B2
(2S)-2-(4-Cyclobutyl-[1,4]diazepane-1-carbonyl)-4-(3-fluoro-phenoxy)-pyrrolidine-1-carboxylic acid tert-butyl ester.
Reaction of 3-fluorophenol and (2S,4R)-2-(4-cyclobutyl-[1,4]diazepane-1-carbonyl)-4-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester was performed as described in Example 11, using resin bound triphenylphosphine and CH2Cl2 to give the title compound as a mixture of diastereomers (89:11), as determined by chiral SFC. MS (ESI): mass calcd. for C25H36FN3O4, 461.27; m/z found, 462.3 [M+H]+. 1H NMR (CDCl3): 7.25-7.16 (m, 1H), 6.69-6.53 (m, 3H), 5.01-4.69 (m, 2H), 3.89-3.42 (m, 6H), 2.92-2.79 (m, 1H), 2.69-2.20 (m, 6H), 2.06-1.72 (m, 6H), 1.71-1.53 (m, 2H), 1.44-1.39 (m, 9H).

reactant | 3-fluorophenol | FC=1C=C(C=CC1)O | C6H5FO
reactant | (2S,4R)-2-(4-cyclobutyl-[1,4]diazepane-1-carbonyl)-4-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O)C(=O)N1CCN(CCC1)C1CCC1 | C19H33N3O4
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (2S)-2-(4-Cyclobutyl-[1,4]diazepane-1-carbonyl)-4-(3-fluoro-phenoxy)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)OC1=CC(=CC=C1)F)C(=O)N1CCN(CCC1)C1CCC1 | C25H36FN3O4
